US07618961B2
Ethyl [2-({[4-(3-chloro-2-cyanophenoxy)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-(3-chloro-2-cyanophenoxy)benzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (41.4 mg) with purity >90%. LCMS (pos) m/z 478.0.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-(3-chloro-2-cyanophenoxy)benzenesulfonyl chloride | ClC=1C(=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=CC1)C#N | C13H7Cl2NO3S
product | Ethyl [2-({[4-(3-chloro-2-cyanophenoxy)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | ClC=1C(=C(OC2=CC=C(C=C2)S(=O)(=O)NC=2SC=C(N2)CC(=O)OCC)C=CC1)C#N | C20H16ClN3O5S2
